data/mechanisms/records/IMS8-EQ8.112.json
{"mechanism_id": "IMS8-EQ8.112", "species": [{"species_id": "acetamidopropyl_methylpiperidine_molecular_ion", "mapped_smiles": "[CH3:7][CH:2]1[CH2:3][CH2:4][CH2:5][CH2:6][N+:1]1[CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH3:14]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "cyclic_iminium_acetamidopropyl", "mapped_smiles": "[CH:2]1=[N+:1]([CH2:6][CH2:5][CH2:4][CH2:3]1)[CH2:8][CH2:9][CH2:10][NH:11][C:12](=[O:13])[CH3:14]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "tetrahydropyridine", "mapped_smiles": "[CH:2]1=[N:1][CH2:6][CH2:5][CH2:4][CH2:3]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_tetrahydro_oxazinium", "mapped_smiles": "[CH3:14][C:12]1=[O+:13][CH2:8][CH2:9][CH2:10][NH:11]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["acetamidopropyl_methylpiperidine_molecular_ion"]}, {"state_id": "state_iminium", "species_ids": ["cyclic_iminium_acetamidopropyl", "methyl_radical"]}, {"state_id": "state_products", "species_ids": ["methyl_tetrahydro_oxazinium", "tetrahydropyridine", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_iminium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rd_amide_oxygen_displacement", "from_state": "state_iminium", "to_state": "state_products", "step_class": "displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "lone_pair", "atom_maps": [13]}, "target": {"type": "bond", "atom_maps": [8, 13]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 8]}, "target": {"type": "lone_pair", "atom_maps": [1]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_8_112", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.112", "figure": null, "panel": "first arrow, labelled '- R.' over 'alpha'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.85, "curator_note": "SUBSTRATE READ FROM THE DRAWING: a piperidine ring whose nitrogen is the bottom vertex and carries '+.', with a substituent R on the ring carbon ALPHA to that nitrogen and, on the nitrogen itself, a chain -CH2CH2CH2-NH-C(=O)-CH3 (the amide oxygen is drawn with its two lone-pair dots). The running text introduces this equation as the case where 'the EE+ precursor is bifunctional, so that the site of the charge moves (Equation 8.112; Seiler and Hesse 1968)'. THIS STEP: textbook radical-site alpha-cleavage - the N-C(alpha) bond becomes the iminium double bond while the C(alpha)-R bond cleaves homolytically, and the arrow is labelled with both its neutral loss '- R.' and the reaction type 'alpha'. The centre structure the book prints is the cyclic iminium with the C=N drawn on that same ring bond and '+' on the nitrogen. ARC COUNT (convention D): Book draws 2 arc(s), both single-barbed fishhooks converging with their barbs onto the N-C(alpha) ring bond, i.e. onto the forming N=C pi bond: arc 1 starts at the odd-electron dot of the '+.' on the nitrogen and sweeps up-left; arc 2 starts on the R-C(alpha) bond, below and to the left, and sweeps down-right. Moves <1,2> are those two drawn arcs; move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) - it routes the second electron of the cleaving C(alpha)-R bond onto R, which is what actually makes the R. radical the arrow label announces. LOCALIZATION (convention B): the precursor SMILES carries the charge and the odd electron explicitly on the ring nitrogen ([N+:1] with three bonds = one unpaired electron in RDKit), so arc 1 has a real origin. INSTANTIATION (convention F): the scheme is generic in R; this record uses R = CH3, i.e. 1-(3-acetamidopropyl)-2-methylpiperidine (C11H22N2O, M+. m/z 198.173), so the expelled radical is .CH3 (15.023) and the iminium is C10H19N2O+ (m/z 183.149)."}, {"evidence_id": "ev_step_rd_8_112", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_amide_oxygen_displacement", "support_type": "textbook_proposed", "locator": {"page": 216, "equation": "8.112", "figure": null, "panel": "second arrow, labelled 'rd'", "section": "8.11 Displacement reactions (rd)"}, "confidence": 0.8, "curator_note": "Equation 8.112, SECOND arrow, labelled 'rd'. This is the step the running text describes as the charge site MOVING in a bifunctional EE+ precursor: the amide oxygen at the far end of the trimethylene chain displaces the iminium nitrogen from the carbon attached to it. The book prints the two products explicitly - a neutral six-membered cyclic imine (2,3,4,5-tetrahydropyridine, drawn as the ring with an uncharged N and one C=N) and a six-membered oxygen/nitrogen ring drawn with '+' on the ring OXYGEN, a double bond from that oxygen down to the carbon that carries the CH3, and N-H at the bottom, i.e. the O-alkylated acetamide 2-methyl-3,4,5,6-tetrahydro-1,3-oxazin-1-ium (C5H10NO+). ARC COUNT (convention D): Book draws 2 arc(s). Arc 1 starts at the two lone-pair dots drawn above the amide oxygen and sweeps left, its head pointing at the chain carbon that is bonded to the iminium nitrogen - the nucleophilic attack that closes the new six-membered ring (O, that carbon, the two further chain carbons, the amide N, the amide C). Arc 2 starts on the N-CH2 bond just below the iminium nitrogen and curls up-left, its head pointing back at the nitrogen - the bonding pair leaving with the nitrogen, which is what neutralizes it and produces the printed cyclic imine. NO move is implicit here: the two drawn arcs account for both bonds that change. BARB STYLE: at the ~208 dpi native resolution of this scan the two heads cannot be resolved as half- versus full-barbed, but both are transcribed as two-electron (pair) moves - arc 1 demonstrably originates at a drawn LONE PAIR, and both printed products are closed-shell even-electron species, so a one-electron reading would create unpaired electrons that neither product has. ARROW-CHECK NOTE: the record's arrow bookkeeping reports two SOFT advisories for this step ('consistent with a lone pair rather than radicals') because a two-electron move into or out of a non-bonding orbital changes a lone-pair population, not a radical count; that is expected for a heterolytic displacement and is not a defect. INSTANTIATION: R = CH3 is carried through from step 1, so the methyl radical released there is kept as a spectator in both states of this step to keep it balanced atom for atom; it takes no part in the reaction."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 198.1727, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_183", "species_id": "cyclic_iminium_acetamidopropyl", "step_id": "step_alpha_cleavage", "observed_mz": 183.1492, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}, {"peak_id": "peak_100", "species_id": "methyl_tetrahydro_oxazinium", "step_id": "step_rd_amide_oxygen_displacement", "observed_mz": 100.0757, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
